### PR TITLE
[Merged by Bors] - feat: Algebra.Homology.ShortComplex.Basic

### PR DESCRIPTION
**Pull request by joelriou**
This PR introduces the category of short complexes `X₁ ⟶ X₂ ⟶ X₃` in a category with zero morphisms.

---

This is the first PR in a series which intends to develop the homology of these short complexes, and redefining the homology in `mathlib4`. The whole code (which also includes the construction of derived categories) appear at #4197

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/ShortComplex/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,294 @@
...
+
+/-- A constructor for isomorphisms in the category `ShortComplex C`-/
+@[simps]
+def isoMk (e₁ : S₁.X₁ ≅ S₂.X₁) (e₂ : S₁.X₂ ≅ S₂.X₂) (e₃ : S₁.X₃ ≅ S₂.X₃)
+    (comm₁₂ : e₁.hom ≫ S₂.f = S₁.f ≫ e₂.hom) (comm₂₃ : e₂.hom ≫ S₂.g = S₁.g ≫ e₃.hom) :
+    S₁ ≅ S₂ where
+  hom := ⟨e₁.hom, e₂.hom, e₃.hom, comm₁₂, comm₂₃⟩
+  inv := homMk e₁.inv e₂.inv e₃.inv
+    (by rw [← cancel_mono e₂.hom, assoc, assoc, e₂.inv_hom_id, comp_id,
+      ← comm₁₂, e₁.inv_hom_id_assoc])
```
Comment (kbuzzard) [inline Mathlib/Algebra/Homology/ShortComplex/Basic.lean:212]: I don't know if the spacing is correct here. Should this be under the `rw` rather than under the `by`? Not sure.

**Review by kbuzzard — COMMENTED** [review]
This all looks very uncontroversial :-) I left some minor comments.

File: Mathlib/Algebra/Homology/ShortComplex/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,294 @@
...
+  /-- the first morphism of a `ShortComplex` -/
+  f : X₁ ⟶ X₂
+  /-- the second morphism of a `ShortComplex` -/
+  g : X₂ ⟶ X₃
+  /-- the composition of the two given morphisms is zero -/
+  zero : f ≫ g = 0
+
+namespace ShortComplex
+
+attribute [reassoc (attr := simp)] ShortComplex.zero
```
[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Algebra/Homology/ShortComplex/Basic.lean:46]: Yes, I think this is fine.

File: Mathlib/Algebra/Homology/ShortComplex/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,294 @@
...
+  inv := homMk e₁.inv e₂.inv e₃.inv
+    (by rw [← cancel_mono e₂.hom, assoc, assoc, e₂.inv_hom_id, comp_id,
+      ← comm₁₂, e₁.inv_hom_id_assoc])
+    (by rw [← cancel_mono e₃.hom, assoc, assoc, e₃.inv_hom_id, comp_id,
+        ← comm₂₃, e₂.inv_hom_id_assoc])
+
+lemma isIso_of_isIso (f : S₁ ⟶ S₂) [IsIso f.τ₁] [IsIso f.τ₂] [IsIso f.τ₃] : IsIso f :=
+  IsIso.of_iso (isoMk (asIso f.τ₁) (asIso f.τ₂) (asIso f.τ₃) (by aesop_cat) (by aesop_cat))
+
+/-- The opposite short_complex in `Cᵒᵖ` associated to a short complex in `C`. -/
```
Comment (semorrison) [inline Mathlib/Algebra/Homology/ShortComplex/Basic.lean:219]:
```suggestion
/-- The opposite `ShortComplex` in `Cᵒᵖ` associated to a short complex in `C`. -/
```

File: Mathlib/Algebra/Homology/ShortComplex/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,294 @@
...
+    dsimp
+    simp only [← op_comp, φ.comm₂₃]
+  comm₂₃ := by
+    dsimp
+    simp only [← op_comp, φ.comm₁₂]
+
+@[simp]
+lemma opMap_id : opMap (𝟙 S) = 𝟙 S.op := rfl
+
+/-- The short_complex in `C` associated to a short complex in `Cᵒᵖ`. -/
```
Comment (semorrison) [inline Mathlib/Algebra/Homology/ShortComplex/Basic.lean:240]:
```suggestion
/-- The `ShortComplex` in `C` associated to a short complex in `Cᵒᵖ`. -/
```

**Comment by semorrison** [comment]
Looks great, just the remaining minor comments.

bors d+

**Comment by joelriou** [comment]
Thanks very much @kbuzzard & @semorrison for these reviews!

bors r+
